US04472305
Condensation of BocPro-PheOH (1.48 g.) and HMePhe-GlyOBz (1.48 g.) using dicyclohexylcarbodiimide and N-hydroxysuccinimide gave BocPro-Phe-MePhe-GlyOBz in 55% yield. Debenzylation of BocPro-Phe-MePhe-GlyOBz (0.95 g.) by hydrogenation with palladium catalyst gave BocPro-Phe-MePhe-GlyOH in 100% yield.

reactant | BocPro-PheOH | 1.48 g | N1([C@H](C(=O)N[C@@H](CC2=CC=CC=C2)C(=O)O)CCC1)C(=O)OC(C)(C)C | C19H26N2O5
reactant | HMePhe-GlyOBz | 1.48 g | N([C@@H](CC1=CC=CC=C1)C(=O)NCC(=O)OC(=O)C1=CC=CC=C1)C | C19H20N2O4
reactant | dicyclohexylcarbodiimide | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
reactant | N-hydroxysuccinimide | ON1C(CCC1=O)=O | C4H5NO3
product | BocPro-Phe-MePhe-GlyOBz | 55% yield | N1([C@H](C(=O)N[C@@H](CC2=CC=CC=C2)C(=O)N([C@@H](CC2=CC=CC=C2)C(=O)NCC(=O)OC(=O)C2=CC=CC=C2)C)CCC1)C(=O)OC(C)(C)C | C38H44N4O8
